Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Levaquin / Penicillins
 
Attending: ___
 
Chief Complaint:
lightheadedness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
PER ___ ___ NOTE:
HPI:  This is a ___ year-old female with the history below who
presented to the ___ Emergency room complaining of unsteady
gait and lightheadedness.  The ___ MDs got ___ history of some 
chest
pressure, however, on my history with pt and daughter they did
not corroborate this, denied any chest pressure or chest pain.

Pt. developed sensation of lightheadeness and unsteady gait
yesterday.  Has had poor appetite in the same interval.   Came 
to
the ___.  In the ___, BP quite high, ecg with sinus bradycardia
without ischemia.  Labs as below.  Trop 0.03 but neg Ck and Mb 
in
setting of likely ckd.  Neuro exam normal including gait by ___
MD, my exam below

She was given clonidine and hctz.  On my exam daughter and pt.
report pt feeling 'ok' she denies chest pain or pressure, sob,
nausea.  Full ROS below;

ROS:
Positives on review of systems: some LH and unsteady gait
starting yesterday. 
All systems were reviewed and found to be negative.
For further specific detail, pt denies: visual changes,
numbness/weakness, chest pain, shortness of breath, fevers,
nausea, vomiting, abdominal pain, diarrhea, bleeding, rash, 
joint
aches/pains.

 
Past Medical History:
HTN
Chronic gait instability
Venous stasis with hx ulcerations of ___
Heart failure, type unspecified
Anxiety
Melanoma
CKD3--ultimately found to have baseline Cr 1.7-1.8 per PCP
 
___:
___
Family History:
Family history reviewed and found to be
noncontributory to this illness                         
 
Physical Exam:
ADMISSION EXAM

VS:  Afebrile and vital signs stable.  BP high on presentation
then improved with clonidine administration, then on repeat exam
at 1800 in the ___ 170/73, asymptomatic
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERRL, EOMO
MMM
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, ___ hsm, no rubs or gallops. 
No JVD.  No carotid bruits
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing or edema.  WWP
Skin: warm, chronic excoriations and likely prior venous stasis
ulcerations of the ___ noted, no evidence of cellulitis, no
asymmetric edema. 
Neurological: Alert, oriented to self, location, reason for
hospitaliation.  Speech fluent. Full str throughout extremities. 

Psychiatric: pleasant, appropriate affect
GU: no urinary catheter in place

============
DISCHARGE EXAM
AVSS, NAD
RRR, ___ HSM throughout without radiation to carotids
CTAB
sntnd
wwp, mild LLE per baseline with venous stasis changes and mild 
venous stasis ulcer (baseline)
A&Ox3, ___ BUE/BLE, SILT BUE/BLE, EOMI, PERRL, no droop

 
Pertinent Results:
ADMISSION RESULTS

___ 06:52AM BLOOD WBC-5.2 RBC-3.15* Hgb-10.1* Hct-31.1* 
MCV-99* MCH-32.1* MCHC-32.5 RDW-13.2 RDWSD-47.3* Plt ___
___ 06:52AM BLOOD Neuts-54.0 ___ Monos-9.4 Eos-2.3 
Baso-0.2 Im ___ AbsNeut-2.80 AbsLymp-1.76 AbsMono-0.49 
AbsEos-0.12 AbsBaso-0.01
___ 06:52AM BLOOD Glucose-93 UreaN-43* Creat-1.8* Na-144 
K-4.7 Cl-111* HCO3-22 AnGap-11
___ 10:24AM BLOOD ALT-11 AST-14 LD(LDH)-173 AlkPhos-106* 
TotBili-0.3
___ 06:52AM BLOOD cTropnT-0.03*
___ 06:52AM BLOOD CK-MB-2
___ 10:24AM BLOOD Calcium-8.7 Phos-3.6 Mg-1.8
___ 08:16AM URINE Blood-NEG Nitrite-POS* Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG*
___ 08:16AM URINE RBC-1 WBC-139* Bacteri-MOD* Yeast-NONE 
Epi-<1

CXR PA/Lat
FINDINGS:  
  
Low lung volumes resulting crowding of the bronchovascular 
structures and 
accentuation of heart size.  6 mm calcified granulomas project 
over the lower 
right lung.  No focal consolidation.  No pleural effusion or 
pneumothorax.  
Heart size is mildly enlarged.  The aorta is moderately 
calcified.  No 
pulmonary edema. 
  
IMPRESSION:  
  
No evidence of an acute cardiopulmonary abnormality. 

EKG: sinus bradycardia at 51, QTc 461, no change from baseline

=========
PERTINENT INTERVAL RESULTS
                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     4 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

BCx NGTD

========
DISCHARGE RESULTS
___ 10:07AM BLOOD Glucose-120* UreaN-33* Creat-1.6* Na-145 
K-4.7 Cl-110* HCO3-25 AnGap-10
___ 10:07AM BLOOD WBC-4.2 RBC-2.96* Hgb-9.4* Hct-29.1* 
MCV-98 MCH-31.8 MCHC-32.3 RDW-12.7 RDWSD-46.0 Plt ___ w chronic gait instability, venous stasis ___ 
ulcerations, murmur, melanoma, HTN who presents with orthostatic 
type symptoms. Appears to have orthostatic
hypotension (symptomatic) which resolved with change of BP 
regimen, holding diuretic and giving gentle IVF. Also with 
asymptomatic bacteruria. 

ACUTE/ACTIVE PROBLEMS:
# unsteadiness
# orthostasis
Symptoms coincide with orthostasis, and she had orthostatic 
hypotension by systolic criteria here on hospital day 1 (even 
after IVF) but negative on hospital day 2. Suspect that her beta 
blocker and heavy BP regimen, potentially also with home 
diuretic and okay but not excessive po intake, led to this. No 
signs of CVA, and is already being treated for B12 deficiency. 
No vertigo. Received 2L IVF during 2d hospitalization, with 
holding of home furosemide. Switched home labetalol (which 
appeared to be causing sinus bradycardia) initially to no agent 
but then given hypertension started amlodipine as below. 
Monitored on telemetry throughout and no events. ___ saw patient 
and recommended home with ___.

# ? ___ on CKD3: it was initially unclear what her baseline was, 
but after discussing with her PCP on day of discharge, it 
appears most recently baseline was in the 1.7-1.8 range. Notably 
after the above management, discharge creatinine 1.6 with lower 
BUN. 

# HFpEF: warm and dry as above. Held diuretic as above, 
recommended resumption on ___. Discharge weight 64.7kg and 
apparently euvolemic. Deferred TTE at this time given lack of 
indication (murmur is old and not c/w AS)

# pyuria: asymptomatic, on detailed questioning did not have any 
symptoms referable to urinary tract. Received a dose of 
ciprofloxacin 250mg po x1 on ___ ___, but given the lack of 
symptoms and risks of abx, this was stopped. UCx returned E coli 
pan sensitive as above. 

# HTN: somewhat labile, but given orthostasis and advanced age, 
would not want BP too low. BP was in the 160s-170s range when 
off of labetalol so started amlodipine 2.5mg po qd on ___ pm, 
with expectation that this will start to kick in over course of 
days. Stopped labetalol as above. Substituted losartan 100mg po 
qd for non-formulary Benicar at max dose while inpatient. 

# anxiety: mild, not usually on frequent lorazepam. Did not need 
any home lorazepam while inpt. 

# b12 deficiency: continued home B12 as o/p
# intermittent vertigo (not current): cont home meclizine prn

[x ] Patient stable for discharge
[x ] >30 minutes spent on patient care and coordination on day 
of
discharge

===========
TRANSITIONAL ISSUES
- held furosemide until ___, verbally advised dtr to check 
weight daily and to start earlier if weight goes up by more than 
2 lbs
- discharge weight 64.7kg, appeared euvolemic
- changed home labetalol to amlodipine in setting of bradycardia 
and orthostasis; consider uptitration of amlodipine as necessary 
for goal BP
- as discussed on phone with PCP, please have office schedule 
follow up appointment or at least BP monitoring with ___ this 
upcoming week
- continue local wound care to ulceration on LLE as you are 
doing
- consider weaning off lorazepam given age
- as above, patient noted to have asymptomatic bacteruria; if 
develops symptoms of UTI, consider empiric treatment based on 
sensitivities of bacteria as above
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Benicar (olmesartan) 40 mg oral DAILY 
3. Calcium Carbonate 500 mg PO BID 
4. Vitamin D 400 UNIT PO DAILY 
5. Ferrex ___ (polysaccharide iron complex) 150 mg iron oral BID 

6. Labetalol 100 mg PO BID 
7. Furosemide 20 mg PO DAILY 
8. Mirtazapine 30 mg PO QHS 
9. Cyanocobalamin 1000 mcg IM/SC ONCE PER MONTH 
10. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID 
11. Floranex (Lactobacillus acidoph-L.bulgar) 1 tablet oral 
DAILY 
12. LORazepam 0.5 mg PO BID:PRN anxiety/insomnia 
13. Meclizine 12.5 mg PO TID:PRN unknown 
14. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1.5 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
3.  Aspirin 81 mg PO DAILY  
4.  Benicar (olmesartan) 40 mg oral DAILY  
5.  Calcium Carbonate 500 mg PO BID  
6.  Cyanocobalamin 1000 mcg IM/SC ONCE PER MONTH  
7.  Ferrex ___ (polysaccharide iron complex) 150 mg iron oral 
BID  
8.  Floranex (Lactobacillus acidoph-L.bulgar) 1 tablet oral 
DAILY  
9.  LORazepam 0.5 mg PO BID:PRN anxiety/insomnia  
10.  Meclizine 12.5 mg PO TID:PRN unknown  
11.  Mirtazapine 30 mg PO QHS  
12.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID  
13.  Vitamin D 400 UNIT PO DAILY  
14. HELD- Furosemide 20 mg PO DAILY  This medication was held. 
Do not restart Furosemide until ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
orthostatic hypotension
___ on CKD
asymptomatic bacteruria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___ was a pleasure caring for you. 
You were admitted for lightheadedness, which we think is from 
your blood pressure being a little too low. We initially thought 
you might have a urinary tract infection but we ultimately do 
not believe you do and there is just bacteria sitting in your 
bladder but not causing infection (called "colonization" which 
is very common, especially in older women). We think you were 
slightly dehydrated and with low blood pressure and are now 
better after some fluid and adjustments to your medications. We 
expect your blood pressure to continue to go down as the 
medication we added continues to work. 
Please follow up with your primary care provider for ___ follow up 
visit and blood pressure check this week to see if you need any 
other adjustments to your medications.
If you develop any pain with urination, feeling like you have to 
go all of a sudden, back pain, or fevers or chills, please let 
your doctor know so that she knows to potentially treat the 
bacteria in your urine (in case this is not actually 
"colonization").
We wish you the best in your recovery!
 
 
Followup Instructions:
___